US04872901
4-Methoxy-6-methyl-2-isothiocyanato-1,3,5-triazine
To 50 ml of xylene are added 15.0 g of 4-methoxy-6- methyl-2-trimethylsilylamino-1,3,5-triazine and 12.2 g of phenyl chlorothionocarbonate. The mixture is stirred at about 140° C. for 6.5 hours. After cooling the reaction mixture to room temperature, insoluble matters are filtered, and the filtrate is concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent, ethyl acetate:toluene=1:3) to yield 3.0 g of the title compound as an oil.

reactant | 4-methoxy-6- methyl-2-trimethylsilylamino-1,3,5-triazine | 15.0 g | COC1=NC(=NC(=N1)C)N[Si](C)(C)C | C8H16N4OSi
reactant | phenyl chlorothionocarbonate | 12.2 g | C1=CC=C(C=C1)OC(=S)Cl | C7H5ClOS
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Methoxy-6-methyl-2-isothiocyanato-1,3,5-triazine | 3.0 g | COC1=NC(=NC(=N1)C)N=C=S | C6H6N4OS
